US07351713B2
To 1 g (3.7 mmol) of 2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester were added successively 554 μL (4.08 mmol) of 4-methoxybenzyl chloride, 565 mg (4.08 mmol) of potassium carbonate and 37 mL of anhydrous DMF. The reaction mixture was stirred overnight at room temperature. Then 250 mL of water were added and a white precipitated solid was collected by filtration. This crude material was back washed with diethyl ether and dried under reduced pressure yielding 1.15 g (79%) of 3-(4-methoxybenzyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylic acid tert-butyl ester as a white solid.

reactant | 2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 3.7 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC2(C(NC(N2)=O)=O)CC1 | C12H19N3O4
reactant | 4-methoxybenzyl chloride | 4.08 mmol, 554 μL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 4.08 mmol, 565 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 37 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 3-(4-methoxybenzyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylic acid tert-butyl ester | 1.15 g, 79% | C(C)(C)(C)OC(=O)N1CCC2(C(N(C(N2)=O)CC2=CC=C(C=C2)OC)=O)CC1 | C20H27N3O5
